US08686048B2
Intermediate 46: 3′-chloro-3,5-difluoro-5′-methoxybiphenyl-4-amine
The title compound (39 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 3-chloro-5-methoxyphenylboronic acid (116 mg, 0.62 mmol) as a pale-yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.36 (dd, J 2.2, 8.1, 2H), 7.25 (s, 1H), 7.12 (s, 1H), 6.91 (t, J 1.9, 1H), 5.43 (s, 2H), 3.81 (s, 3H).

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-chloro-5-methoxyphenylboronic acid | 0.62 mmol, 116 mg | ClC=1C=C(C=C(C1)OC)B(O)O | C7H8BClO3
product | 3′-chloro-3,5-difluoro-5′-methoxybiphenyl-4-amine | 39 mg | ClC=1C=C(C=C(C1)OC)C1=CC(=C(C(=C1)F)N)F | C13H10ClF2NO
